US07462614B2
To a mixture of 5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-amine hydrochloride (0.026 g, 0.10 mmol), 4-bromobenzenesulfonamide (0.026 g, 0.11 mmol), tris(dibenzylideneacetone)dipalladium (2.7 mg, 0.0030 mmol), (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (5.6 mg, 0.0090 mmol) and sodium t-butoxide (0.025 g, 0.23 mmol) was added dioxane (1 mL). The solution was heated with microwave radiation to 160° C. for 15 minutes. After cooling to room temperature, the solution was filtered, and silica gel (1 g) was added, followed by evaporation of the volatiles under reduced pressure. The pre-adsorbed solids were loaded into a solid loading cartridge and subjected to a gradient elution using ethyl acetate:hexanes (50:50) to ethyl acetate:hexanes (100:0) using a RediSep silica gel cartridge (4 g; ISCO). The appropriate fractions were combined and concentrated under reduced pressure to give 4-[(5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-yl)amino]benzenesulfonamide (0.0015 g) as a yellow solid. MS m/z 381 (M+1).

reactant | 5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-amine hydrochloride | 0.10 mmol, 0.026 g | Cl.CC=1N=C(N2N=C(N=CC21)N)C2=CC=CC=C2
reactant | 4-bromobenzenesulfonamide | 0.11 mmol, 0.026 g | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
reactant | (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.0090 mmol, 5.6 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | sodium t-butoxide | 0.23 mmol, 0.025 g | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0030 mmol, 2.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 4-[(5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-yl)amino]benzenesulfonamide | 0.0015 g | CC=1N=C(N2N=C(N=CC21)NC2=CC=C(C=C2)S(=O)(=O)N)C2=CC=CC=C2 | C18H16N6O2S
